US05824690
Combine 4-phenyl-piperidine-4-carboxylic acid p-toluenesulfonate salt (20.0 g, 53 mmol) and dimethylformamide (300 mL). Cool in an ice-bath. Add dropwise, N,N-diisopropylethylamine (10.2 g, 58.6 mmol). Add dimethylformamide (150 mL) and dichloromethane (100 mL). Add dropwise, a solution of di-tert-butyl dicarbonate (11.6 g) in dimethylformamide (50 mL). After 18 hours, dilute the reaction mixture with ethyl acetate and extract with water. Extract the aqueous layer with ethyl acetate, combine the organic layers and extract with water and then brine. Dry the combined organic layers over MgSO4, filter, and concentrate in vacuo to give 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid.

reactant | 4-phenyl-piperidine-4-carboxylic acid p-toluenesulfonate salt | 53 mmol, 20.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | N,N-diisopropylethylamine | 58.6 mmol, 10.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | di-tert-butyl dicarbonate | 11.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
